US07795283B2
A solution of ethyl 4-hydroxycyclohexanecarboxylate (2.0 g, 11.6 mmol) in DMF (3 ml) was added in one portion to a stirred suspension of sodium hydride (60% dispersion in mineral oil, 490 mg, 12.2 mmol) in DMF (15 mL) at 0° C. under an argon atmosphere. The mixture was stirred at 0° C. for 10 minutes and then warmed to room temperature and stirred for 20 minutes and then a solution of 1-fluoro-4-nitrobenzene (1.24 mL, 11.6 mmol) in DMF (2 mL) was added in one portion. The reaction mixture was stirred at room temperature for 2 h and then heated at 110° C. for 24 h. The solution was concentrated in vacuo to leave a residue that was taken up in EtOAc (250 mL) and water (150 mL) was added. The layers were separated and the organic layer was washed with H2O (2×100 mL) and brine (50 mL) and then dried (MgSO4) and concentrated in vacuo to leave an oil. The oil was taken up in a mixture of hot EtOAc and isohexane (1:1) and left for 20 h. Filtration, followed by concentration in vacuo of the filtrate left an oil, which was purified by column chromatography, using 10-40% EtOAc in isohexane as eluent, to give crude ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate as an off white solid that was used without further purification.

reactant | ethyl 4-hydroxycyclohexanecarboxylate | 11.6 mmol, 2.0 g | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | sodium hydride | 12.2 mmol, 490 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 11.6 mmol, 1.24 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | isohexane | CCCC(C)C | C6H14
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | water | 150 mL | O | H2O
product | ethyl 4-(4-nitrophenoxy)cyclohexanecarboxylate | [N+](=O)([O-])C1=CC=C(OC2CCC(CC2)C(=O)OCC)C=C1 | C15H19NO5
